US07678913B2
N-[4-(2-dimethylaminomethyl-phenyl)phenyl]-2-(2-methylphenyl)-2-(4-chlorophenylaminocarbonylamino)-acetamide
The titled compound was prepared analogously as describe in EXAMPLE 55, using 2-(2-methylphenyl)-2-(4-chlorophenylaminocarbonylamino)-acetic acid and 4-(2-dimethylaminomethyl-phenyl)phenylamine MS 527.7 and 529.6 (M+H, Cl pattern).

reactant | 2-(2-methylphenyl)-2-(4-chlorophenylaminocarbonylamino)-acetic acid | CC1=C(C=CC=C1)C(C(=O)O)NC(=O)NC1=CC=C(C=C1)Cl | C16H15ClN2O3
reactant | 4-(2-dimethylaminomethyl-phenyl)phenylamine | CN(C)CC1=C(C=CC=C1)C1=CC=C(C=C1)N | C15H18N2
product | N-[4-(2-dimethylaminomethyl-phenyl)phenyl]-2-(2-methylphenyl)-2-(4-chlorophenylaminocarbonylamino)-acetamide | CN(C)CC1=C(C=CC=C1)C1=CC=C(C=C1)NC(C(NC(=O)NC1=CC=C(C=C1)Cl)C1=C(C=CC=C1)C)=O | C31H31ClN4O2
